US07544702B2
2-(2,4-Dichloro-benzenesulfonylamino)-N-methoxy-N-methyl-5-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-isonicotinamide (150 mg, 0.233 mmol) was stirred in THF (30 ml) under nitrogen at room temperature. 2M Propylmagnesium chloride (1.2 ml, 2.33 mmol) was added and the reaction stirred overnight. The reaction was quenched using 1N HCl solution partitioned between a mixture of NaHCO3 solution (30 ml) and ethyl acetate (30 ml). The organic layer was dried (MgSO4) and concentrated under reduced pressure. The residue was purified by flash column chromatography using ethyl acetate 2/3 hexane as eluent to give N-{4-butyryl-5-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-pyridin-2-yl}-2,4-dichloro -benzenesulfonamide as an off-white solid (10 mg, 6%). 1H NMR (CDCl3): 8.21 (1H, s, Ar); 8.06 (1H, d, Ar); 7.60 (2H, d, Ar); 7.47 (1H, s, Ar); 7.38 (1H, d, Ar); 7.26 (3H, m, py and Ar); 2.89 (4H, m, 2×CH2N pip); 2.70 (2H, t, COCH2); 1.56 (6H, m, 2×CH2 pip, COCH2CH2); 1.47 (2H, m, CH2 pip); 0.90 (3H, t, COCH2CH2CH3). HPLC (Luna 2, Gradient 1): rt=6.92 minutes. LCMS: rt=7.61 minutes, 629 (M+H)+.

reactant | 2-(2,4-Dichloro-benzenesulfonylamino)-N-methoxy-N-methyl-5-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-isonicotinamide | 0.233 mmol, 150 mg | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)NC=1C=C(C(=O)N(C)OC)C(=CN1)SC1=CC=C(C=C1)S(=O)(=O)N1CCCCC1 | C25H26Cl2N4O6S3
reactant | Propylmagnesium chloride | 2.33 mmol, 2M, 1.2 ml | C(CC)[Mg]Cl
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | N-{4-butyryl-5-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-pyridin-2-yl}-2,4-dichloro -benzenesulfonamide | 10 mg, 6% | C(CCC)(=O)C1=CC(=NC=C1SC1=CC=C(C=C1)S(=O)(=O)N1CCCCC1)NS(=O)(=O)C1=C(C=C(C=C1)Cl)Cl | C26H27Cl2N3O5S3
